US05237059
Synthesis and Evaluation of 2-(9,10-Dibutoxyanthracene-2-sulfonyloxy) imino-2-phenylacetonitrile
A mixture of 0.50 g of 2-hydroxyimino-2-phenylacetonitrile, 1.43 g of 9,10-dibutoxyanthracene-2-sulfonyl chloride and 20 ml of dichloromethane was stirred on an ice bath, and 0.34 g of triethylamine was added.

reactant | 2-hydroxyimino-2-phenylacetonitrile | 0.50 g | ON=C(C#N)C1=CC=CC=C1 | C8H6N2O
reactant | 9,10-dibutoxyanthracene-2-sulfonyl chloride | 1.43 g | C(CCC)OC=1C2=CC=CC=C2C(=C2C=CC(=CC12)S(=O)(=O)Cl)OCCCC | C22H25ClO4S
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.34 g | C(C)N(CC)CC | C6H15N
product | 2-(9,10-Dibutoxyanthracene-2-sulfonyloxy) imino-2-phenylacetonitrile | C(CCC)OC=1C2=CC=CC=C2C(=C2C=CC(=CC12)S(=O)(=O)ON=C(C#N)C1=CC=CC=C1)OCCCC | C30H30N2O5S
